### PR TITLE
feat: Integration by parts for higher dimensional spaces

### PR DESCRIPTION
**Pull request by mcdoll**
---

- [x] depends on: #9987
- [x] depends on: #10105
- [x] depends on: #10107
- [x] depends on: #10115
- [x] depends on: #10118
- [x] depends on: #10182

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/OrthoDecomp.lean [hunk 1]
```diff
@@ -0,0 +1,249 @@
...
+      exact ⟨v.orthonormal.2, w.orthonormal.2⟩)
+
+@[simp] theorem _root_.OrthonormalBasis.prod_apply (v : OrthonormalBasis ι₁ 𝕜 E)
+    (w : OrthonormalBasis ι₂ 𝕜 F) :
+    ∀ i : ι₁ ⊕ ι₂, v.prod w i = Sum.elim ((LinearMap.inl 𝕜 E F) ∘ v) ((LinearMap.inr 𝕜 E F) ∘ w) i := by
+  rw [Sum.forall]
+  unfold OrthonormalBasis.prod
+  constructor
+  · intro
+    simp
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/OrthoDecomp.lean:35]: Does `simpa` work in place of simp then rfl? (Iirc it does but I could be wrong) That might be less brittle if so.
